US08012956B2
Methyl 4-cyano-5-iodo-2-(trifluoromethyl)benzoate (174 mg, 0.49 mmol) was dissolved in dioxane (2 mL) and was sparged with nitrogen for 15 minutes. XANTPHOS (57 mg, 0.098 mmol), cesium carbonate (350 mg, 1.07 mmol), (R)-sec-butylamine (0.1 mL, 0.986 mmol), and tris(dibenzylideneacetone)dipalladium (45 mg, 0.049 mmol) were added, and the mixture was stirred in a sealed tube at 95° C. for 20 h. The reaction mixture was cooled to ambient temperature and was filtered through celite. The filter cake was washed with ethyl acetate and the filtrate was concentrated to afford an orange oil which was purified by column chromatography (silica gel, 5-15% ethyl acetate in hexanes) to afford (R)-methyl 5-(sec-butylamino)-4-cyano-2-(trifluoromethyl)benzoate (45 mg, 0.150 mmol, 31% yield) as a yellow oil. GCMS for C14H15F3N2O2: 300 (M+).

reactant | Methyl 4-cyano-5-iodo-2-(trifluoromethyl)benzoate | 0.49 mmol, 174 mg | C(#N)C1=CC(=C(C(=O)OC)C=C1I)C(F)(F)F | C10H5F3INO2
reactant | XANTPHOS | 0.098 mmol, 57 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 1.07 mmol, 350 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (R)-sec-butylamine | 0.986 mmol, 0.1 mL | [C@@H](C)(CC)N | C4H11N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.049 mmol, 45 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (R)-methyl 5-(sec-butylamino)-4-cyano-2-(trifluoromethyl)benzoate | 0.150 mmol, 45 mg, 31% yield | [C@@H](C)(CC)NC=1C(=CC(=C(C(=O)OC)C1)C(F)(F)F)C#N | C14H15F3N2O2
